US08058313B2
bis((E)-4-Chlorostyrylsulfonyl)methane
A solution of 4-chlorobenzaldehyde (2 mmol) and carboxymethane-sulfonylmethanesulfonyl-acetic acid (1 mmol) in acetic acid (10 mL) was subjected to General Procedure 1, to yield the title compound in 80% yield. m.p. 178-180° C.

reactant | 4-chlorobenzaldehyde | 2 mmol | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | carboxymethane-sulfonylmethanesulfonyl-acetic acid | 1 mmol | C(=O)(O)CS(=O)(=O)CS(=O)(=O)CC(=O)O | C5H8O8S2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | bis((E)-4-Chlorostyrylsulfonyl)methane | 80% yield | ClC1=CC=C(/C=C/S(=O)(=O)CS(=O)(=O)\C=C\C2=CC=C(C=C2)Cl)C=C1 | C17H14Cl2O4S2
